### PR TITLE
[stdlib] add lemmas list_power_length, concat_length, flat_map_length

### PR DESCRIPTION
**Pull request by haansn08**
This PR adds following lemmas:
* `list_power_length: length (list_power l l') = (length l')^(length l)`.
* `concat_length: length (concat l) = list_sum (map (@length A) l)`.
* `flat_map_length: length (flat_map f l) = list_sum (map (fun x => length (f x)) l)`.
* `flat_map_constant_length:  (forall x, length (f x) = c) -> length (flat_map f l) = (length l) * c`.

### CODE REVIEW

**Comment by andres-erbsen** [comment]
@coqbot run full ci

**Review by andres-erbsen — APPROVED** [review]

File: doc/changelog/11-standard-library/17082-list_power_length.rst [hunk 1]
```diff
@@ -0,0 +1,5 @@
+- **Added:**
+  add lemmas :g:`concat_length`, :g:`flat_map_length`,
+  :g:`flat_map_constant_length`, :g:`list_power_length` to ``List.v``
+  (`#17082 <https://github.com/coq/coq/pull/17082>`_,
+  by Stefan Haan).
```
Comment (andres-erbsen) [inline doc/changelog/11-standard-library/17082-list_power_length.rst:5]:
```suggestion
- **Added:** lemmas :g:`concat_length`, :g:`flat_map_length`,
  :g:`flat_map_constant_length`, :g:`list_power_length` to ``Lists.List`
  (`#17082 <https://github.com/coq/coq/pull/17082>`_,
  by Stefan Haan).
```

**Comment by andres-erbsen** [comment]
The error message from the [MetaCoq failure](https://github.com/coq/coq/runs/10642297154) is below; I don't see how it would be caused by the change in question but I am also not confident to call it irrelevant.

```
170 |     | Sorts.Irrelevant -> Lazy.force tIrrelevant
Error (warning 8): this pattern-matching is not exhaustive.
Here is an example of a case that is not matched:
RelevanceVar _
Command exited with non-zero status 2
```

File: theories/Lists/List.v [hunk 2]
```diff
@@ -3420,6 +3420,39 @@ simpl; rewrite IHl1.
 apply Nat.add_assoc.
 Qed.
 
+Lemma concat_length A l:
+  length (concat l) = list_sum (map (@length A) l).
+Proof.
+  induction l; [reflexivity|].
+  simpl. rewrite app_length.
+  apply Nat.add_cancel_l. assumption.
```
Comment (olaure01) [inline theories/Lists/List.v:3428]:
```suggestion
  f_equal. assumption.
```

File: theories/Lists/List.v [hunk 3]
```diff
@@ -3420,6 +3420,39 @@ simpl; rewrite IHl1.
...
+Qed.
+
+Lemma flat_map_length A B (f: A -> list B) l:
+  length (flat_map f l) = list_sum (map (fun x => length (f x)) l).
+Proof.
+  rewrite flat_map_concat_map, concat_length.
+  f_equal. induction l; [reflexivity|].
+  cbn. f_equal. assumption.
```
Comment (olaure01) [inline theories/Lists/List.v:3436]:
```suggestion
  rewrite flat_map_concat_map, concat_length, map_map. reflexivity.
```

File: theories/Lists/List.v [hunk 4]
```diff
@@ -3420,6 +3420,39 @@ simpl; rewrite IHl1.
...
+Qed.
+
+Corollary flat_map_constant_length A B c (f: A -> list B) l:
+  (forall x, length (f x) = c) -> length (flat_map f l) = (length l) * c.
+Proof.
+  intro H. rewrite flat_map_length.
+  induction l; [reflexivity|].
+  simpl. rewrite H. apply Nat.add_cancel_l. assumption.
```
Comment (olaure01) [inline theories/Lists/List.v:3444]:
```suggestion
  simpl. rewrite H. f_equal. assumption.
```

File: theories/Lists/List.v [hunk 5]
```diff
@@ -3420,6 +3420,39 @@ simpl; rewrite IHl1.
...
+Qed.
+
+Lemma list_power_length (A B:Type)(l:list A) (l':list B):
+    length (list_power l l') = (length l')^(length l).
+Proof.
+  induction l as [ | a m IH ]; [reflexivity|].
+  cbn. rewrite flat_map_constant_length with (c := length l').
+  - rewrite IH. now apply Nat.mul_comm.
```
Comment (olaure01) [inline theories/Lists/List.v:3452]:
```suggestion
  - rewrite IH. apply Nat.mul_comm.
```

**Review by olaure01 — APPROVED** [review]

**Comment by andres-erbsen** [comment]
There is now a light-CI failure as well:

```
File "doc/dune", line 26, characters 0-489:
26 | (rule
27 |  (targets refman-html)
28 |  (alias refman-html)
....
40 |   (env_var SPHINXWARNOPT))
41 |  (action
42 |   (run env sphinx-build -q %{env:SPHINXWARNOPT=-W} -b html sphinx %{targets})))
(cd _build/default/doc && /usr/bin/env sphinx-build -q -W -b html sphinx refman-html)
Command exited with code 2.
make: *** [refman-html] Error 1
Makefile:160: recipe for target 'refman-html' failed
```

File: doc/changelog/11-standard-library/17082-list_power_length.rst [hunk 6]
```diff
@@ -0,0 +1,4 @@
+- **Added:** lemmas :g:`concat_length`, :g:`flat_map_length`,
+  :g:`flat_map_constant_length`, :g:`list_power_length` to ``Lists.List`
```
Comment (andres-erbsen) [inline doc/changelog/11-standard-library/17082-list_power_length.rst:2]:
```suggestion
  :g:`flat_map_constant_length`, :g:`list_power_length` to `Lists.List`
```

**Comment by Zimmi48** [comment]
> The error message from the [MetaCoq failure](https://github.com/coq/coq/runs/10642297154) is below; I don't see how it would be caused by the change in question but I am also not confident to call it irrelevant.
> 
> ```
> 170 |     | Sorts.Irrelevant -> Lazy.force tIrrelevant
> Error (warning 8): this pattern-matching is not exhaustive.
> Here is an example of a case that is not matched:
> RelevanceVar _
> Command exited with non-zero status 2
> ```

Looks related to https://github.com/MetaCoq/metacoq/pull/827, so irrelevant to this PR.

**Comment by andres-erbsen** [comment]
The doc failure is unrelated per https://github.com/coq/coq/pull/17134#issuecomment-1397710078 ; I intend to merge in ~24h unless anyone objects.

File: theories/Lists/List.v [hunk 7]
```diff
@@ -3420,6 +3420,38 @@ simpl; rewrite IHl1.
...
+  length (flat_map f l) = list_sum (map (fun x => length (f x)) l).
+Proof.
+  rewrite flat_map_concat_map, concat_length, map_map. reflexivity.
+Qed.
+
+Corollary flat_map_constant_length A B c (f: A -> list B) l:
+  (forall x, In x l -> length (f x) = c) -> length (flat_map f l) = (length l) * c.
+Proof.
+  intro H. rewrite flat_map_length.
+  induction l; [reflexivity|].
```
Comment (olaure01) [inline theories/Lists/List.v:3441]:
```suggestion
  induction l as [ | a l IHl ]; [reflexivity|].
```
required for name mangling

**Comment by olaure01** [comment]
Squashing commits would be nice before merging.

**Comment by haansn08** [comment]
@olaure01 Done.

**Comment by andres-erbsen** [comment]
My apologies for losing track of this. I can't find the full-ci log anymore, and developments may have changed anyway. I still intend to merge if CI still passes.

@coqbot run full ci

**Comment by andres-erbsen** [comment]
I saw the Iris failure on an independent PR, and I am not going to wait for bedrock2 and fiat-crypto again.

@coqbot merge now

**Comment by andres-erbsen** [comment]
I set 8.17.0 as a milestone because that was the first one listed; feel free to bump if 8.17 is frozen already.

@coqbot merge now

**Comment by Zimmi48** [comment]
Indeed, 8.17 is not accepting any new feature.
